US08242153B2
c) (R)-2-Amino-3-(1-phenyl-ethoxy)-propan-1-ol
To a suspension of lithium aluminum hydride (212 mg) in tetrahydrofuran (5 ml) was added a solution of (S)-2-amino-3-(1-phenyl-ethoxy)-propionic acid methyl ester (280 mg) in tetrahydrofuran (5 ml) and the mixture was stirred for 2 hours at room temperature. Sodium hydroxide solution (4N) was added until gas evolution ceased, ether was added and the suspension was filtered through Celite. The solvent was evaporated and the residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: dichloromethane/MeOH=90:10) to yield a light yellow liquid, (130 mg, 24%); MS (ISP): 196.1 ((M+H)+).

reactant | lithium aluminum hydride | 212 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-amino-3-(1-phenyl-ethoxy)-propionic acid methyl ester | 280 mg | COC([C@H](COC(C)C1=CC=CC=C1)N)=O | C12H17NO3
reactant | Sodium hydroxide | 4N | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (R)-2-Amino-3-(1-phenyl-ethoxy)-propan-1-ol | N[C@H](CO)COC(C)C1=CC=CC=C1 | C11H17NO2
